US07569518B2
To a mixture of 10.12 g of 4-chloropropiophenone, 0.1 ml of hydrobromic acid (48% aqueous solution) and 60 ml of acetic acid was added 3.1 ml of bromine at 0° C. under a nitrogen atmosphere, and stirred at room temperature for 1 hour. Thereafter, the reaction mixture was concentrated under reduced pressure, to obtain 14.34 g of 2-bromo-4′-chloropropiophenone.

reactant | 4-chloropropiophenone | 10.12 g | CCC(=O)C1=CC=C(C=C1)Cl | C9H9ClO
reactant | hydrobromic acid | 0.1 ml | Br | BrH
reactant | bromine | 3.1 ml | BrBr | Br2
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-4′-chloropropiophenone | 14.34 g | BrC(C(=O)C1=CC=C(C=C1)Cl)C | C9H8BrClO
